US09353108B2
A) Ethyl 3-(benzyloxy)-5-hydroxy-4-iodobenzoate
Sodium hydride (60% oil, 1.33 g) was added to a mixture of ethyl 3,5-dihydroxy-4-iodobenzoate (5.00 g) and DMF (50 mL), and the resultant mixture was stirred at 0° C. for 30 minutes in a nitrogen atmosphere. Benzyl bromide (2.78 mL) was added to the reaction mixture, and the mixture was stirred at room temperature for 2 hours. Water was added to the reaction mixture, followed by extraction with ethyl acetate. The obtained organic layer was washed with saturated saline and dried over anhydrous magnesium sulfate, and then, the solvent was distilled off under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate) to obtain the title compound (2.94 g).

reactant | Sodium hydride | 1.33 g | [H-].[Na+]
reactant | ethyl 3,5-dihydroxy-4-iodobenzoate | 5.00 g | OC=1C=C(C(=O)OCC)C=C(C1I)O | C9H9IO4
reactant | DMF | 50 mL | CN(C)C=O | C3H7NO
reactant | Benzyl bromide | 2.78 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | Water | O | H2O
product | Ethyl 3-(benzyloxy)-5-hydroxy-4-iodobenzoate | 2.94 g | C(C1=CC=CC=C1)OC=1C=C(C(=O)OCC)C=C(C1I)O | C16H15IO4
